Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
None

attach
 
Pertinent Results:
___ 04:40AM BLOOD WBC-5.7 RBC-3.95 Hgb-12.5 Hct-38.4 MCV-97 
MCH-31.6 MCHC-32.6 RDW-12.8 RDWSD-45.8 Plt ___
___ 04:40AM BLOOD Glucose-111* UreaN-16 Creat-1.1 Na-141 
K-4.0 Cl-104 HCO3-25 AnGap-12
___ 01:20PM BLOOD ALT-10 AST-17 AlkPhos-88 TotBili-0.6
___ 04:40AM BLOOD Calcium-9.2 Phos-3.6 Mg-1.9 UricAcd-8.8*
___ 04:40AM BLOOD VitB12-253
___ 04:40AM BLOOD Ammonia-14
___ 04:40AM BLOOD TSH-2.6

IMPRESSION: 
  
  
1. No acute intracranial process. 
2. Chronic infarcts are seen involving the left frontoparietal 
region and the 
right basal ganglia.  MRI is more sensitive in detecting acute 
ischemia. 
3. Paranasal sinus disease. 

 
Brief Hospital Course:
Ms. ___ is a ___ woman with history of HTN, HLD, 
depression, CVA ___, who presents with worsening lethargy.

# Acute metabolic encephalopathy:
# Lethargy:
# Depression
3 weeks worsening lethargy.  She was seen in ___ clinic and 
___ increased to 30mg daily though this has not changed her 
course much.  Medically she has no acute abnormalities which 
would explain this: labs stable, CT head neg.  UA positive but 
with several epis and no sxs I felt UTI unlikely.  PCP gives 
collateral of a normally active person withdrawn lately and less 
interactive.  Psych consulted and recommended to cont Paxil with 
caution given drug-drug interactions.  Can follow up with psych 
as outpatient if needed.  Arranged for home ___ for safety eval 
and ___.

# Asymptomatic bacteriuria
UA positive for infection.  No symptoms of UTI.  Several epis.  
I di not feel she had infection at this time and stopped 
antibiotics
# HTN
- Continued home meds

# HLD
- Continued home simvastatin 40 mg daily.

# CVA
Prior CVA ___. CT head with old left frontoparietal infarct. No 
neuro deficits on exam.

# Gout
- Uric acid mildly elevated. Consider discontinuing HCTZ in 
outpatient setting.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Hydrochlorothiazide 12.5 mg PO DAILY 
3. Indomethacin 25 mg PO TID:PRN Pain - Moderate 
4. Lisinopril 20 mg PO DAILY 
5. PARoxetine 30 mg PO DAILY 
6. Simvastatin 40 mg PO QPM 
7. Aspirin 81 mg PO DAILY 
8. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY  
2.  Atenolol 25 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Indomethacin 25 mg PO TID:PRN Pain - Moderate  
5.  Lisinopril 20 mg PO DAILY  
6.  PARoxetine 30 mg PO DAILY  
7.  Simvastatin 40 mg PO QPM  
8.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
1. Lethargy
2. Depression
3. Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with not feeling your self.  Medical 
evaluation was negative for any infection or metabolic 
derangements.  Thinking this was related to your mood, we had 
psychiatry see you and they agree with continuing Paxil for now. 
 You will be discharged home with ___ and home safety/OT 
evaluations.  Please follow up with your PCP ___ 1 week for a 
check up.
 
Followup Instructions:
___